.INCLUDE ./comp.dep

* 0 is default node of circuit ground
*               X,Y,Z,W,VIN

.SUBCKT opamp741 1 2 3
	* +in (=1) -in (=2) out (=3)
	rin 1 2 2meg
	rout 6 3 75
	e 4 0 1 2 100k
	rbw 4 5 0.5meg
	cbw 5 0 31.85nf
	eout 6 0 5 0 1
.ends opamp741

.SUBCKT swdiode in out
	(* anode, cathode*)
	* (+,anode) is base of triangle and (-,cathode) is tip
	* nplus nminus
	*junction diode, saturation current (IS)
	DI in out DMOD (LEVEL=1, IS=1e-9) 
.ends swdiode

* Vout = -Vt ln(Vin /(R*Is))
* Vt voltage equivalent of temperature, ie thermal voltage
* R1 resistance of resistor
* Is saturation current, parameter of diode

.SUBCKT logamp in out
	R1 in j1 1K
	XOP 0 j1 out opamp741
	DIO j1 out swdiode
.ends logamp

*Vout = -Is*R*exp(Vin/Vt)
* Vt voltage equivalent of temperature, ie thermal voltage
* R resistance of resistor 
* Is saturation current

.SUBCKT alogamp in out
	XDIO in j1 swdiode
	XOP 0 j1 out opamp741
	R1 j1 out 1K
.ENDS alogamp

.SUBCKT vcopy in out
	XOP in out opamp741
.ENDS vcopy

*
* vout = -RC d/dt vin with vin = ic
.SUBCKT vvderiv vin out ic
	CAP vin j1 1 ic
	RES j1 out 1
	XOP 0 j1 out opamp741
.ENDS vvderiv

* d/dt vout = - Vin / RC with vout = ic
.SUBCKT vvinteg vin vout ic
	RES vin j1 1
	CAP j1 vout 1 ic
	XOP 0 j1 vout opamp741
.ENDS vvinteg

* == verified ==
*vout = -(vb*rf/rb + va*rf/ra)
.SUBCKT vadd2 va vb vout
	Ra va j 1
	Rb vb j 1
	Rf j jout 1
	XOP 0 j jout opamp741
	RO jout vout 0
.ENDS vadd2

* == verified ==
* out = Rf/R1(V2 - V1)
.SUBCKT vsub2 b a out
	R1 a ja 1
	R2 b jb 1
	Rg jb 0 1
	Rf ja out 1
	XOMP ja jb out opamp741
.ENDS vsub2

* == verified ==
* out = -Rf/Rin*in
.SUBCKT vinv in out
	Rin in j1 1
	Rf j1 out 1
	XOMP 0 j1 out opamp741
.ENDS vinv

*
*
.SUBCKT vmul2 va vb out
	Xa va ja logamp
	Xb vb jb logamp
	Xadd ja jb jo vadd2
	Xo jo out alogamp
.ENDS vmul2

*
*
.SUBCKT vdiv2 va vb out
	Xa va ja logamp
	Xb vb jb logamp
	Xadd ja jb jo vsub2
	Xo jo out alogamp
.ENDS vdiv2


